US05700809
3-(4-Naphthalen-2-yl-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
4-Naphthalen-2-yl-1,2,3,6-tetrahydropyridine (597 mg, 2.9 mmol) was reacted with 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (500 mg, 2.9 mmol) as exemplified in Example 4 to give the title compound (619 mg, 63%) as tan crystals, m.p. 223°-225° C. (EtOH); (Found: C, 81.05; H, 6.24; N, 12.19. C23H21N3 requires C, 81.38; H, 6.24; N, 12.38%); δH (DMSO-d6) 2.60 (2H, m, tetrahydropyridinyl CH2), 2.72 (2H, t, J 5.7 Hz, tetrahydropyridinyl CH2), 3.16 (2H, d, J 2.7 Hz, tetrahydropyridinyl CH2), 3.78 (2H, s, ArCh2N), 6.34 (1H, m, CH=CR), 7.04 (1H, dd, J 7.5, 1.5 Hz, 5-H), 7.40 (1H, d, J 2.3 Hz, ArH), 7.44 (2H, m, ArH), 7.66 (1H, dd, J 1.6, 7.8 Hz, ArH), 7.86 (4H, m, ArH), 8.06 (1H, d, J 7.5 Hz, 4-H), 8.20 (1H, d, J 1.5 Hz, 6-H, and 11.48 (1H, br s, NH); m/z (CI+, NH3) 340 (M+1)+.

reactant | 4-Naphthalen-2-yl-1,2,3,6-tetrahydropyridine | 2.9 mmol, 597 mg | C1=C(C=CC2=CC=CC=C12)C=1CCNCC1 | C15H15N
reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 2.9 mmol, 500 mg | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
solvent | EtOH | CCO | C2H6O
product | 3-(4-Naphthalen-2-yl-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 619 mg, 63% | C1=C(C=CC2=CC=CC=C12)C=1CCN(CC1)CC1=CNC2=NC=CC=C21 | C23H21N3
